US06436923B1
A. 2-(4-Hydroxyphenyl)-N-{2-[3-(phenylmethoxy)phenyl]ethyl}acetamide
A solution of 2-[3-(phenylmethoxy)phenyl]ethylamine (2.80 g, 12.3 mmol), 4-hydroxyphenylacetic acid (2.25 g, 14.8 mmol), N, N-diisopropylethylamine (2.79 mL, 16 mmol), and EDCI (3.07 g, 16 mmol) in 20 mL of DMF was stirred at room temperature for 10 h. The reaction mixture was poured into 100 mL of water and the aqueous layer was extracted with CH2Cl2. The organic layer was dried over MgSO4, concentrated, and purified by column chromatography (SiO2, hexanes/ethyl acetate, 1:1) to provide the title compound (2.50 g, 56% yield): ES-MS, (m/z) 362 [M+H]+.

reactant | 2-[3-(phenylmethoxy)phenyl]ethylamine | 12.3 mmol, 2.80 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)CCN | C15H17NO
reactant | 4-hydroxyphenylacetic acid | 14.8 mmol, 2.25 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | N, N-diisopropylethylamine | 16 mmol, 2.79 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EDCI | 16 mmol, 3.07 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(4-Hydroxyphenyl)-N-{2-[3-(phenylmethoxy)phenyl]ethyl}acetamide | 2.50 g, 56% yield | OC1=CC=C(C=C1)CC(=O)NCCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C23H23NO3
